data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"BrC1=NNC2=CC=CC=C12.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=C(B(O)O)C=C1.COCCOC.O=C([O-])[O-].[Na+].[Na+].[Pd:2]|(1, 2)",3,6,reaction_5,USPTO_suzuki,train
"BrC1=NNC2=CC=CC=C21.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=C(B(O)O)C=C1.COCCOC.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",3,5,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C2C(=C1)NN=[C:2]2[Br:1].COC1=CC=C(B(O)O)C=C1.COCCOC.O=C([O-])[O-].[Na+].[Na+]|(3, 2);((2, 1), 3)",3,4,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3]([C]2=NNC3=CC=CC=C32)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:2])C=C1.COC1=CC=C(B(O)O)C=C1.COCCOC.O=C([O-])[O-:1].[Na+:4].[Na+]|(1, 3);((3, 2), 4)",3,3,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=[C:3]([B:2](O)O)C=C1.COCCOC.O=C([O-])[O][Pd-2:1]([C]1=NNC2=CC=CC=C21)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+].[Na][Br]|(1, 3);((3, 2), 1)",3,2,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=[C]([Pd-2:2]([C]2=NNC3=CC=CC=C32)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])C=C1.COCCOC.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",3,1,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=NNC3=CC=CC=C32)C=C1.COCCOC.O=C([O-])OB(O)O.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",3,0,reaction_5,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=C1I.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+].[Pd:2]|(1, 2)",18,6,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=C1I.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+]|(2, 1)",18,5,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=[C:2]1[I:3].O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+]|(1, 2);((2, 3), 1)",18,4,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=[C]1[Pd-2:4]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[I:1].O=C([O-])[O-:2].OB(O)C1=CC=CC=C1.[K+:3].[K+]|(2, 4);((4, 1), 3)",18,3,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=[C]1[Pd-2:3]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:1](O)[C:2]1=CC=CC=C1.[K+].[K][I]|(3, 2);((2, 1), 3)",18,2,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=[C]1[Pd-2:3]([C]1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([O:1]C(=O)[O-])[B:2](O)O.[K+].[K][I]|((3, 1), 2);((2, 3), 3)",18,1,reaction_37,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC(=O)C1=CC(Br)=CC=[C:2]1[Pd-2:3]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:1]1=CC=CC=C1.O=C([O-])OB(O)O.[K+].[K][I]|((3, 2), 1);((1, 3), 3)",18,0,reaction_37,USPTO_suzuki,train
